US04783530
1,3-Dipropyl-8-(4-nitrophenyl)xanthine, was prepared by treatment of 1,3-dipropyl-5,6-diaminouracil (1.01 g, 4.5 mmol) with 4-nitrobenzaldehyde (0.85 g, 5.6 mmol) in absolute ethanol (50 ml) in the presence of acetic acid (0.6 ml) and heated at reflux for 1 hour to yield 1,3-dipropyl-5-amino-6-(4-nitrophenyl)iminouracil. Treatment of 1,3-dipropyl-5-amino-6-(4-nitrophenyl)iminouracil (1.2 g, 3.3 mmol) with diethyl azodicarboxylate (7 ml) at 90° C. in toluene (40 ml) gave after dilution with ethanol a precipitate. This precipitate was recrystallized from ethanol yielding 0.95 g of pure product (81%). IR (KBr) 3180 (N--H), 1710(C=O), 1650(C=O), 1520(C=C) cm-1 ; Anal. Calcd. for C17H19N5O4 : MW 357.38: C, 57.14; H, 5.36; N, 19.60. Found: C, 57.22; H, 5.42; N, 19.50.

reactant | 1,3-Dipropyl-8-(4-nitrophenyl)xanthine | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)[N+](=O)[O-])CCC | C17H19N5O4
reactant | 1,3-dipropyl-5,6-diaminouracil | 4.5 mmol, 1.01 g | C(CC)N1C(=O)N(C(=O)C(=C1N)N)CCC | C10H18N4O2
reactant | 4-nitrobenzaldehyde | 5.6 mmol, 0.85 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,3-dipropyl-5-amino-6-(4-nitrophenyl)iminouracil | C(CC)N1C(=O)N(C(=O)C(C1=NC1=CC=C(C=C1)[N+](=O)[O-])N)CCC | C16H21N5O4
